US06166015
Solid (9H-1,3,4,9-tetraazafluoren-2-ylsulfanyl)acetic acid (390 mg, 1.5 mmol, 1.2 equiv.) was added to a solution of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (360 mg, 1.9 mmol, 1.5 equiv.), 1-hydroxybenzotriazole hydrate (260 mg, 1.9 mmol, 1.5 equiv.) and triethylamine (0.65 mL, 4.6 mmol, 3.7 equiv.) in chloroform (10 mL). 3-(RS)-Aminomethyl-1-(3,4-dichlorobenzyl)pyrrolidine (320 mg, 1.2 mmol) was added and the suspension was made homogeneous upon addition of dimethylformamide (5 mL). The brown solution was stirred for 14 h, then concentrated in vacuo. The residue was diluted with ethyl acetate and washed with 1 M sodium hydroxide. The organic phase was concentrated to dryness and the residue purified by chromatography (5→10% methanol in CHCl3) to provide N-[1-(3,4-dichlorobenzyl)-pyrrolidin-3-(RS)-ylmethyl]-2-(9H-1,3,4,9-tetraazafluoren-2-ylsulfanyl)acetamide as a pale yellow solid. The solid was dissolved into 4 M HCl in dioxane (1 mL) and the mixture concentrated under vacuum to afford pure product as its hydrochloride salt (250 mg).

reactant | (9H-1,3,4,9-tetraazafluoren-2-ylsulfanyl)acetic acid | 1.5 mmol, 390 mg, 1.2 equiv. | N1=C(N=NC=2C3=CC=CC=C3NC12)SCC(=O)O | C11H8N4O2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.9 mmol, 360 mg, 1.5 equiv. | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 1.9 mmol, 260 mg, 1.5 equiv. | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 4.6 mmol, 0.65 mL, 3.7 equiv. | C(C)N(CC)CC | C6H15N
reactant | 3-(RS)-Aminomethyl-1-(3,4-dichlorobenzyl)pyrrolidine | 1.2 mmol, 320 mg | NCC1CN(CC1)CC1=CC(=C(C=C1)Cl)Cl | C12H16Cl2N2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[1-(3,4-dichlorobenzyl)-pyrrolidin-3-(RS)-ylmethyl]-2-(9H-1,3,4,9-tetraazafluoren-2-ylsulfanyl)acetamide | ClC=1C=C(CN2CC(CC2)CNC(CSC2=NC=3NC4=CC=CC=C4C3N=N2)=O)C=CC1Cl | C23H22Cl2N6OS
